Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Aspirin / Codeine
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ history of gastric bypass complicated by bowel obstructions 
and hernias presenting with severe abdominal pain x5 days. She 
also endorses nausea and vomiting which began 2 days ago. 
Reports low grade fevers to 100. No chills, diarrhea, BRBPR, 
melena, dysuria, or hematuria. Patient states the pain is 
located in the epigastrium and right lower quadrant and is 
crampy and severe. It is similar to the pain she has had with 
her bowel obstructions in the past. Her last bowel movement was 
3 days ago. She is passing lots of flatus. She ___ eaten much 
of anything in 2 days. She has been losing weight recently.

Of note, for the past 3 months the patient has noticed decreased 
urine output. She urinates ___ times per day. She has not had 
this worked up by a doctor.

In the ED, initial vs were 98.2 78 140/87 16 98%. Heme-negative. 
Received 2mg IV diaudid. Transfer VS 98 53 97/62 14 100%.  
On arrival to the floor, patient reports severe ___ epigastric 
and right sided pain. She feels like she would be able to eat if 
the pain were controlled.  

 
Past Medical History:
hypertension, asthma, peptic ulcer disease, DJD, and non-insulin 
dependent diabetes mellitus, gastric bypass, cholecystectomy

 
Social History:
___
Family History:
Paternal aunt and maternal uncle with colon cancer. Maternal 
aunt with breast cancer. HTN and diabetes runs in the family.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS  98.3, 109/66, 56, 18, 100% RA
GEN Alert, oriented, in pain  
HEENT NCAT MMM EOMI sclera anicteric, OP clear  
NECK supple, no JVD, no LAD  
PULM Poor inspiratory effort, CTAB no wheezes, rales, ronchi  
CV RRR normal S1/S2, no mrg  
ABD soft, tender in epigastrium and right side of abdomen, ND 
hyperactive bowel sounds, no r/g, ___ sign negative  
EXT WWP 2+ pulses palpable bilaterally, no c/c/e  
NEURO CNs2-12 intact, motor function grossly normal  
SKIN no ulcers or lesions  

Discharge Exam:
VS  98.1, 111/76, 72, 18, 100% RA
GEN Alert, oriented, NAD  
HEENT NCAT MMM EOMI sclera anicteric, OP clear    
PULM CTAB no wheezes, rales, ronchi  
CV RRR normal S1/S2, no mrg  
ABD soft, tender in epigastrium, ND hyperactive bowel sounds, no 
r/g  
EXT WWP 2+ pulses palpable bilaterally, no c/c/e  
NEURO CNs2-12 intact, motor function grossly normal  
SKIN no ulcers or lesions  
 
Pertinent Results:
Admission:
___ 07:45AM BLOOD WBC-5.1 RBC-3.80* Hgb-12.8# Hct-39.5# 
MCV-104*# MCH-33.7*# MCHC-32.5 RDW-16.1* Plt ___
___ 07:45AM BLOOD Neuts-77.4* ___ Monos-2.2 Eos-0.5 
Baso-0.5
___ 07:45AM BLOOD Glucose-82 UreaN-11 Creat-0.7 Na-137 
K-5.1 Cl-104 HCO3-28 AnGap-10
___ 07:45AM BLOOD ALT-21 AST-40 AlkPhos-78 TotBili-0.3
___ 07:45AM BLOOD Albumin-2.9* Calcium-8.4 Phos-3.6 Mg-1.9
___ 07:57AM BLOOD Lactate-1.7

Discharge:
___ 06:45AM BLOOD WBC-5.7 RBC-2.89* Hgb-9.5* Hct-30.0* 
MCV-104* MCH-32.8* MCHC-31.6 RDW-16.3* Plt ___
___ 06:45AM BLOOD Glucose-71 UreaN-14 Creat-0.6 Na-139 
K-4.6 Cl-104 HCO3-30 AnGap-10
___ 06:50AM BLOOD ALT-11 AST-15 AlkPhos-62 TotBili-0.2
___ 06:45AM BLOOD Calcium-7.9* Phos-3.4 Mg-1.6
___ 06:50AM BLOOD VitB12-326

Imaging:
___ CT Abdomen Pelvis:
1.  New pancreatic duct dilation.  New extra-hepatic and left 
intra-hepatic biliary ductal dilation.  Though no obstructing 
mass is seen, further imaging with MRCP is recommended. 
2.  No acute intra-abdominal or intra-pelvic process.  No 
evidence of small bowel obstruction. 
3.  Mild cecal mucosal thickening may represent colitis. 

___ MRCP:
Dilation of the main pancreatic duct and biliary tree to the 
ampulla without underlying mass identified.  Suspect that a 
duodenal wall or ampullary abnormality (which may include 
stricture, spasm, or mass) accounts for this appearance.  As the 
patient appears to have had a gastric bypass reversal, she may 
be anatomically amenable to EGD/ERCP evaluation as clinically 
warranted. 

 
Brief Hospital Course:
Brief Course:
___ history of gastric bypass complicated by hernias presenting 
with abdominal pain x3 days. Patient was found to have 
pancreatic and common bile duct dilitation on MRCP which appears 
to be consistent with prior imaging obtained from outside 
hospital records since ___ year ago. No mass was identified on 
imaging. ERCP was consulted who recommended that the patient 
follow up with them as an outpatient for further evaluation with 
possible ERCP. Patient's pain was controlled with dilaudid.

Active Issues:
#Acute of Chronic Abdominal pain: Unclear etiology. Localized to 
epigastrium and right side. Ddx includes appendicitis, colitis, 
gastritis, PUD, diverticulitis, constipation. No fever, white 
count, guaiac negative. MRCP showed pancreatic and CBD 
dilitation which seems to have been present for at least a year 
based on outside records. Ddx includes choledocolithiasis, 
biliary sludge, sphincter of oddi spasm, pancreatic tumor, 
although no evidence of obstructing mass or stone on imaging. No 
elevation in liver function tests. ERCP was consulted and felt 
that an endoscopic ultrasound would not be feasible given the 
patient's anatomy after her gastric bypass surgery. They 
recommended that she follow up with them as an outpatient for 
possible ERCP for further workup. We tried to get in touch with 
the patient's former gastroenterologist at ___ but were 
unsucessful. Patient's pain was controlled with IV dilaudid 
initially, then she was transitioned to PO dilaudid was she was 
tolerating food. Patient wishes to transfer all of her care from 
___ to ___.

#Anemia: Patient's H/H below baseline, but stable. Likely due to 
chronic malnutrition and dilution after receving fluids. But 
with history of PUD, GI bleed was kept in the differential. 
However, patient continued to have no signs of bleeding and her 
H/H remained stable.

#Anxiety/Depression: There may be a psychiatric component to the 
patient's pain. We continued her home celexa, doxepin, seroquel, 
clonazepam.

Inactive Issues: 
#PUD: Continued PPI, carafate

#History of DM: Non-insulin dependent. Resolved after bypass 
surgery.

#HTN: Diet controlled

Transitional Issues:
1. Code status: FULL
2. Contact: Patient's sister ___ (___) ___. Mom ___ 
___  
3. ___ changes:
-START Dilaudid as needed for pain
-START Zofran as needed for nausea
-START docusate and senna for constipation
4. Pending Studies: None
5. Follow up: PCP, ERCP

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Omeprazole 20 mg PO BID 
2. Clonazepam 2 mg PO TID 
3. TraMADOL (Ultram) 100 mg PO Q6H 
4. FoLIC Acid 1 mg PO DAILY 
5. Vitamin D 400 UNIT PO DAILY 
6. Ascorbic Acid ___ mg PO BID 
7. Sucralfate 1 gm PO QID 
8. Citalopram 40 mg PO DAILY 
9. Quetiapine Fumarate 400 mg PO QHS 
10. Doxepin HCl 75 mg PO HS 

 
Discharge Medications:
1. Citalopram 40 mg PO DAILY 
2. Clonazepam 2 mg PO TID 
3. Doxepin HCl 75 mg PO HS 
RX *doxepin 75 mg 1 capsule(s) by mouth daily Disp #*30 Capsule 
Refills:*0
4. Quetiapine Fumarate 400 mg PO QHS 
RX *quetiapine 400 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
5. Sucralfate 1 gm PO QID 
6. Ascorbic Acid ___ mg PO BID 
7. FoLIC Acid 1 mg PO DAILY 
8. Vitamin D 400 UNIT PO DAILY 
9. Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0
10. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0
11. Senna 1 TAB PO BID:PRN constipation 
RX *sennosides [senna] 8.6 mg 1 by mouth twice a day Disp #*20 
Tablet Refills:*0
12. HYDROmorphone (Dilaudid) 4 mg PO Q6H:PRN pain 
hold for sedation, rr<12 
RX *hydromorphone [Dilaudid] 4 mg 1 tablet(s) by mouth every six 
(6) hours Disp #*30 Tablet Refills:*0
13. Omeprazole 20 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Acute on Chronic abdominal pain

Secondary:
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___. You were admitted 
because of severe abdominal pain, nausea, and vomiting. We 
controlled your pain with IV pain medication and transitioned 
you to oral medicines once you were able to eat. We took an MRI 
of your abdomen which showed dilation of your pancreatic and 
bile ducts. Based on your outside records, it seems as if these 
findings were present for at least ___ year, but never fully 
evaluated. You will follow up with the gastroenterology 
specialists for further workup.

Please make the following changes to your medications:
START Dilaudid as needed for pain
START Zofran as needed for nausea
START docusate and senna for constipation
 
Followup Instructions:
___